US04668686
(g) 1-Methyl-5-[(2-methyl-6-nitrophenyl)methylene]-2,4-imidazolidinedione (R1 =R2 =H; R3 =R4 =CH3)
Reaction of 2-methyl-6-nitrobenzaldehyde with diethyl 1-methyl-2,4-dioxoimidazolidine-5-phosphonate according to procedure D provides the title compound as a mixture of geometrical isomers, m.p. 194°-197° C. in 80% yield.

reactant | 2-methyl-6-nitrobenzaldehyde | CC1=C(C=O)C(=CC=C1)[N+](=O)[O-] | C8H7NO3
reactant | diethyl 1-methyl-2,4-dioxoimidazolidine-5-phosphonate | CN1C(NC(C1P(OCC)(=O)OCC)=O)=O | C8H15N2O5P
product | 1-Methyl-5-[(2-methyl-6-nitrophenyl)methylene]-2,4-imidazolidinedione | 80% yield | CN1C(NC(C1=CC1=C(C=CC=C1[N+](=O)[O-])C)=O)=O | C12H11N3O4
